US08242125B2
Triethylsilane (4 mL, 24.7 mmol) and TFA (6 mL) are added to 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-1H-indole (0.22 g, 0.682 mmol) in 6 mL of acetonitrile and stirred at It overnight. The reaction is concentrated to an oil that is dissolved in EtOAc and washed with a saturated aqueous sodium bicarbonate. The organic layer is removed, dried, and concentrated to an to obtain crude 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-1H-indole. MS (ESI) m/z 334.2 (M+1).

reactant | Triethylsilane | 24.7 mmol, 4 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-1H-indole | 0.682 mmol, 0.22 g | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C20H17N3O2
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 5-(6-benzyloxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-1H-indole | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)OC=1C=C2CCNC2=CC1 | C20H19N3O2
